US07700634B2
Methyl bromoacetate (199 μl, 2.10 mmol) was added to a mixture of (S)-2-methoxymethyl pyrrolidine (268 μl, 2.17 mmol), potassium carbonate (319 mg, 2.31 mmol) and sodium iodide (315 mg, 2.10 mmol) in acetonitrile (3 ml). The mixture was subjected to microwave irradiation for 5 min at 160° C., then partitioned between dichloromethane and water. The aqueous layer was extracted with dichloromethane and the combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. Purification by flash column chromatography eluting with 0-10% (v/v) methanol in dichloromethane afforded (S)-(2-methoxymethyl-pyrrolidin-1-yl) acetic acid methyl ester (133 mg, 0.71 mmol).

reactant | Methyl bromoacetate | 2.10 mmol, 199 μl | BrCC(=O)OC | C3H5BrO2
reactant | (S)-2-methoxymethyl pyrrolidine | 2.17 mmol, 268 μl | COC[C@H]1NCCC1 | C6H13NO
reactant | potassium carbonate | 2.31 mmol, 319 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 2.10 mmol, 315 mg | [I-].[Na+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | (S)-(2-methoxymethyl-pyrrolidin-1-yl) acetic acid methyl ester | 0.71 mmol, 133 mg | COC(CN1[C@@H](CCC1)COC)=O | C9H17NO3
